US04456604
Step B: Preparation of 2-(1-Piperazinyl)-3-fluoropyridine N-oxide
A solution of 2-chloro-3-fluoropyridine N-oxide (400 mg, 3.0 mmol) and piperazine (1.3 g, 15 mmol) in n-butanol, 15 ml, is stirred at reflux for 20 hours. After concentrating under reduced pressure at 55°-60° C., the residue is chromatographed over silica gel and the crude N-oxide eluted with a 50% methanol-methylene chloride solvent mixture. The appropriate eluate is concentrated to an oily residue of the title compound.

reactant | 2-chloro-3-fluoropyridine N-oxide | 3.0 mmol, 400 mg | ClC1=[N+](C=CC=C1F)[O-] | C5H3ClFNO
reactant | piperazine | 15 mmol, 1.3 g | N1CCNCC1 | C4H10N2
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-(1-Piperazinyl)-3-fluoropyridine N-oxide | N1(CCNCC1)C1=[N+](C=CC=C1F)[O-] | C9H12FN3O
